US05317103
1. N-Benzyl-2-[5-carboethoxymethyl-1H-indol-3-yl]ethylamine
To a solution of 2-[5-carboethoxymethyl-1H-indol-3-yl]ethylamine (2.8 g, 11.37 mmol) in EtOH (45 ml) was added freshly distilled benzaldehyde (1.21 g, 11.37 mmol) and the resulting solution was stirred at room temperature for 22 h. NaBH4 (0.434 g, 11.48 mmol) was added portionwise over 10 min at room temperature and the resulting mixture was stirred for a further 0.5 h before the solvent was removed under vacuum. The resulting residue was taken up into water (20 ml) and acidified with 1N HCl (30 ml). The mixture was then basified with 2N NaOH and extracted with EtOAc (4×70 ml). The combined organic phases were washed with brine (50 ml), dried and concentrated. Chromatography of the residue on silica-gel eluting with CH2Cl2 /EtOH (90:10) gave the title-product (2.78 g, 73%); δ(360 MHz, CDCl3) 1.25 (3H, t, J=7.1 Hz, CH3); 2.98 (4H, s, 2 of CH2); 3.68 (2H, s, CH2); 3.81 (2H, s, CH2); 4.14 (2H, q, J=7.1 Hz, CH2); 6.98 (1H, d, J=2.2 Hz, Ar-H); 7.11 (1H, dd, J=1.6 and 8.3 Hz, Ar-H); 7.20-7.32 (6H, m, Ar-H); 7.49 (1H, d, J=0.7 Hz, Ar-H); 7.99 (1H, br s, indole N-H).

reactant | 2-[5-carboethoxymethyl-1H-indol-3-yl]ethylamine | 11.37 mmol, 2.8 g | C(=O)(OCC)CC=1C=C2C(=CNC2=CC1)CCN | C14H18N2O2
reactant | benzaldehyde | 11.37 mmol, 1.21 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 11.48 mmol, 0.434 g | [BH4-].[Na+]
solvent | EtOH | 45 ml | CCO | C2H6O
product | N-Benzyl-2-[5-carboethoxymethyl-1H-indol-3-yl]ethylamine | 2.78 g, 73% | C(C1=CC=CC=C1)NCCC1=CNC2=CC=C(C=C12)CC(=O)OCC | C21H24N2O2
